US07662830B2
4. 4-[4-(5-Bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine
Heat a mixture of 4-[4-(5-bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-2-chloro-6-(4-fluoro-phenyl)-pyrimidine (7.7 g, 16.2 mmol), (R)-2-methylpyrrolidine hydrobromide [prepared essentially as described by Nijhuis et. al. (1989) J. Org. Chem. 54(1):209] (3.5 g, 21.1 mmol) and K2CO3 (5.1 g, 37.3 mmol) in DMA at 110° C. for 16 h. Partition the mixture between EtOAc and water, dry (Na2SO4) the organic layer and concentrate under reduced pressure. Purify with flash silica gel column eluting with 10% EtOAc/hexanes. Concentrate under reduced pressure to give the title compound.

reactant | 4-[4-(5-bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-2-chloro-6-(4-fluoro-phenyl)-pyrimidine | 16.2 mmol, 7.7 g | BrC=1C=C(C(=NC1)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)Cl)C)C | C21H20BrClFN5
reactant | (R)-2-methylpyrrolidine hydrobromide | Br.C[C@H]1NCCC1
reactant | K2CO3 | 37.3 mmol, 5.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-[4-(5-Bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine | BrC=1C=C(C(=NC1)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C)C | C26H30BrFN6
